US07608716B2
To a solution of methyl 2-(3-fluorophenylamino)-nicotinate (4.90 g, 16.2 mmol; synthesized according to WO, A, 01/42244) in 1,2-dichloroethane (80 ml ) was added at 80° C. trichloromethyl chloroformate (also called: diphosgene, 5.9 ml, 48.3 mmol) gradually dropwise over about 30 minutes. Three hours later, activated carbon (130 mg) was added, and the mixture was heated under reflux for 30 minutes, filtered off, and then evaporated. The resultant residue was washed with isopropyl ether, and dried to give 1-(3-fluorophenyl)-2H-pyrido[2,3-d][1,3]oxazin-2,4(1H)-dione(3.42g, 82%) as crystals.

reactant | methyl 2-(3-fluorophenylamino)-nicotinate | 16.2 mmol, 4.90 g | FC=1C=C(C=CC1)NC1=C(C(=O)OC)C=CC=N1 | C13H11FN2O2
reactant | trichloromethyl chloroformate | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | diphosgene | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | 1-(3-fluorophenyl)-2H-pyrido[2,3-d][1,3]oxazin-2,4(1H)-dione | 3.42g, 82% | FC=1C=C(C=CC1)N1C(OC(C2=C1N=CC=C2)=O)=O | C13H7FN2O3
